US05439911
p-Toluenesulfonic acid (0.10 g) was added to a solution of ethyl 4-(2-(4-(2-(tetrahydropyran-2-yloxy)ethyl)phenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate (4.20 g, 9.82 mmol) in ethanol (40 ml). The mixture was heated under reflux for 4 hours. After cooling to room temperature, the solvent was evaporated under reduced pressure. Water (40 ml) was added to the residue. The mixture was extracted with methylene chloride and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (=1/1) to give the desired ethyl 4-(2-(4-(2-hydroxyethyl)phenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate (2.60 g, 77%).

reactant | p-Toluenesulfonic acid | 0.10 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl 4-(2-(4-(2-(tetrahydropyran-2-yloxy)ethyl)phenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate | 9.82 mmol, 4.20 g | O1C(CCCC1)OCCC1=CC=C(C=C1)CCNC1=NC=NC(=C1C(=O)OCC)CC | C24H33N3O4
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | ethyl 4-(2-(4-(2-hydroxyethyl)phenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate | 2.60 g, 77% | OCCC1=CC=C(C=C1)CCNC1=NC=NC(=C1C(=O)OCC)CC | C19H25N3O3
